US07964643B2
4′-Bromobiphenyl-4-sulfonic acid (4-isopropylamino-butyl) amide (ABD-255)
4′-Bromobiphenyl-4-sulfonic acid (4-amino-butyl) amide (0.6 g) was dissolved in DMF (30 mL). K2CO3 (1 g) was added followed by 2-iodo-propane (0.3 mL). The mixture was stirred for 3 hrs, poured into water, extracted with ether and dried. Addition of petrol and evaporation caused the title compound to precipitate as a white solid.

reactant | 4′-Bromobiphenyl-4-sulfonic acid (4-amino-butyl) amide | 0.6 g | NCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Br | C16H19BrN2O2S
reactant | K2CO3 | 1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-iodo-propane | 0.3 mL | IC(C)C | C3H7I
reactant | water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4′-Bromobiphenyl-4-sulfonic acid (4-isopropylamino-butyl) amide | C(C)(C)NCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Br | C19H25BrN2O2S
